US09446130B2
To a solution of ethyl 3-(trifluoromethyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyridine-7-carboxylate (2.28 g, 8.662 mmol) in THF (17 mL) was added 4N LiOH.H2O (726.9 mg, 17.324 mmol) in water (4 mL), then the mixture was stirred at room temperature for 2 h, then acidified with 1N HCl to pH=3. The resulting mixture was extracted with EA and the aqueous phase was directly drying to give 3-(trifluoromethyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyridine-7-carboxylic acid without further purification.

reactant | ethyl 3-(trifluoromethyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyridine-7-carboxylate | 8.662 mmol, 2.28 g | FC(C1=NN=C2N1CCC(C2)C(=O)OCC)(F)F | C10H12F3N3O2
reactant | LiOH.H2O | 17.324 mmol, 4N, 726.9 mg | O[Li].O
reactant | HCl | 1N | Cl | ClH
solvent | THF | 17 mL | C1CCOC1 | C4H8O
solvent | water | 4 mL | O | H2O
product | 3-(trifluoromethyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyridine-7-carboxylic acid | FC(C1=NN=C2N1CCC(C2)C(=O)O)(F)F | C8H8F3N3O2
